US08138178B2
To a solution of 3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile (208 mg, 0.47 mmol) in 1,4-dioxane (5 mL) were added 6-oxo-1,6-dihydropyridin-3-ylboronic acid (98 mg, 1.5 equiv), 2.0 M aq Cs2CO3 solution (500 μL), and Pd(dppf)Cl2 (20 mg, 0.06 equiv). The mixture was degassed and refilled with N2 gas 3 times, before being heated to 90° C. (oil bath) for 3 h. LC-MS found the reaction was complete. The mixture was cooled to rt, diluted with EtOAc (25 mL), and washed with water (10 mL). The aqueous layer was extracted with EtOAc (2×10 mL). The combined organic layers were washed with water (10 mL) and brine (8 mL), and dried over Na2SO4. After filtration and concentration, the residue was purified by chromatography (12-g silica gel cartridge, 0˜10% MeOH in CH2Cl2, major UV peak) to afford 2,2-dimethyl-3-((R)-2-oxo-3-((S)-1-(4-(6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan-6-yl)propanenitrile (202 mg, 94%) as a brown oil. LC-MS Method 1 tR=1.34 min, m/z=456 (M+1); 1H NMR (CDCl3) 8.01 (d, 1H), 7.80 (s, 1H), 7.36 (dt, 6H), 7.19 (d, 2H), 6.98 (m, 3H), 5.65 (d, 1H), 2.98 (d, 1H), 2.50 (m, 2H), 2.32 (m, 1H), 2.17 (s, 2H), 1.57 (d, 3H), 1.40 (s, 3H), 1.32 (s, 3H).

reactant | 3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile | 0.47 mmol, 208 mg | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C#N)(C)C)=O | C23H25BrN2O2
reactant | 6-oxo-1,6-dihydropyridin-3-ylboronic acid | 98 mg, 1.5 equiv | O=C1C=CC(=CN1)B(O)O | C5H6BNO3
reactant | Cs2CO3 | 2.0 M, 500 μL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 20 mg, 0.06 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2,2-dimethyl-3-((R)-2-oxo-3-((S)-1-(4-(6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan-6-yl)propanenitrile | 202 mg, 94% | CC(C#N)(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CNC(C=C1)=O)C1=CC=CC=C1)C | C28H29N3O3
